US08541457B2
Synthesis of 2-(2-Fluorobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use 2-fluorobenzoyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 99% yield; 1H NMR (CDCl3, 300 MHz) δ 8.63 (t, J=5.8 Hz, 1H), 7.62-7.17 (m, 9H), 6.01 (s, br, 1H), 4.59 (d, J=5.8 Hz, 2H), 2.61 (s, 3H); MS (ES+) m/z 369.7 (M+1).

reactant | 2-fluorobenzoyl chloride | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 2-(2-Fluorobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide | 99% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=C(C=CC=C1)F)=O)C | C19H16FN3O2S
